US07897737B2
To a suspension of 2′-deoxyinosine (100 mg, 0.4 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (BOP, 210 mg, 0.48 mmol) in anhydrous DMF (1 mL), N,N-diisopropylethylamine (100 μL, 0.6 mmol) was added followed by the addition of a solution of 1-(2-nitrophenyl)ethylamine (250 mg, 1.51 mmol) in DMF (1 mL). The reaction was stirred at room temperature for 64 hours. Silica gel 60 (1 g, 60-200 mesh) was added, and the mixture was evaporated in vacuo to dryness. The residue was purified by silica gel column chromatography to yield N6-[1-(2-nitrophenyl)ethyl]-2′-deoxyadenosine dA.19 (67 mg, 42%, 1:1 mixture of diastereomers) as a white foam.

reactant | 2′-deoxyinosine | 0.4 mmol, 100 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O4
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.48 mmol, 210 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.6 mmol, 100 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(2-nitrophenyl)ethylamine | 1.51 mmol, 250 mg | [N+](=O)([O-])C1=C(C=CC=C1)C(C)N | C8H10N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N6-[1-(2-nitrophenyl)ethyl]-2′-deoxyadenosine | [N+](=O)([O-])C1=C(C=CC=C1)C(C)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C18H20N6O5
